US08648066B2
2-amino-N-[(3R)-1-methylpyrrolidin-3-yl]-5-[4-(6,6,8-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-3-sulfonamide.
Synthesized according to the method of example 5 using (S)-2-amino-5-bromo-N-(1-methylpyrrolidin-3-yl)pyridine-3-sulfonamide (reagent preparation 25) and [4-(6,6,8-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, d6-DMSO): 8.52 (d, 1H), 8.37 (s, 1H), 8.12 (s, H), 8.06 (d, 1H), 7.56 (d, 1H), 7.45 (dd, 1H), 7.02 (d, 1H), 6.69 (br s, 2H), 6.12 (s, 1H), 4.62 (s, 2H), 4.32 (br t, 2H), 3.84 (br m, 2H), 3.63 (br s, 1H), 2.68 (s, 2H), 2.44 (m, 2H), 2.26-2.16 (m, 2H), 2.14 (s, 3H), 1.88 (s, 3H), 1.86 (s, 2H), 1.48-1.42 (m, 1H), 0.91 (s, 6H); MS (EI) for C30H37N7O3S: 576 (MH+).

reactant | (S)-2-amino-5-bromo-N-(1-methylpyrrolidin-3-yl)pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N[C@@H]1CN(CC1)C)Br | C10H15BrN4O2S
reactant | [4-(6,6,8-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2C(=C1)C)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C20H24BN3O3
product | 2-amino-N-[(3R)-1-methylpyrrolidin-3-yl]-5-[4-(6,6,8-trimethyl-5,6-dihydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N[C@H]1CN(CC1)C)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3C(=CC(CC23)(C)C)C)C1 | C30H37N7O3S
